US06747023B1
6-tert-Butoxycarbonyl-7-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine
Under ice cooling, sodium hydride (60% in oil, 270 mg) was added to butanol (70 ml), followed by stirring for 30 minutes. A butanol solution (5 ml) of 6-benzoyl-7-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (240 mg) was added to the reaction mixture. The resulting mixture was heated under reflux for 4 days. After water (5 ml) was added to the reaction mixture and the mixture was heated under reflux for 30 minutes, the reaction mixture was cooled to room temperature. To the reaction mixture was added di-tert-butyl dicarbonate (883 mg) and they were stirred at room temperature for 8 hours. The reaction mixture was concentrated under reduced pressure. To the residue were added 3N hydrochloric acid (10 ml) and ethyl acetate to separate the resulting mixture into layers. The organic layer thus collected was dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by chromatography on a silica gel column (ethyl acetate:hexane=1:4), whereby the title compound (168 mg) was obtained as a yellow oil.

reactant | sodium hydride | 270 mg | [H-].[Na+]
reactant | butanol | 70 ml | C(CCC)O | C4H10O
reactant | butanol | 5 ml | C(CCC)O | C4H10O
reactant | 6-benzoyl-7-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 240 mg | C(C1=CC=CC=C1)(=O)C1C(C2=C(CN1)SC=N2)C | C14H14N2OS
reactant | di-tert-butyl dicarbonate | 883 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 5 ml | O | H2O
product | 6-tert-Butoxycarbonyl-7-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | C(C)(C)(C)OC(=O)C1C(C2=C(CN1)SC=N2)C | C12H18N2O2S
